US04892576
(e) Methyl 5-acetamido-3-benzylthiopyrazole-4-carboxylate
70.5 g (0.27 mol) Methyl 5-amino-3-benzylthiopyrazole-4-carboxylate was dissolved at 80° C. in 135 ml glacial acetic acid and treated with 27.75 g (0.27 mol) acetic anhydride. The solution was heated under reflux for 7 hours and concentrated. The residue was recrystallised from ether, the crystals suction filtered, washed with ether and dried.

reactant | Methyl 5-amino-3-benzylthiopyrazole-4-carboxylate | 0.27 mol, 70.5 g | NC1=C(C(=NN1)CC1=CC=CC=C1)C(=S)OC | C12H13N3OS
reactant | acetic anhydride | 0.27 mol, 27.75 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 135 ml | C(C)(=O)O | C2H4O2
product | Methyl 5-acetamido-3-benzylthiopyrazole-4-carboxylate | C(C)(=O)NC1=C(C(=NN1)CC1=CC=CC=C1)C(=S)OC | C14H15N3O2S
